US07060827B2
To a mixture of 5-aminobenzene-1,3-diol (0.60 g, 3.7 mmole) and sodium hydrogencarbonate (1.4 g, 16 mmole) in THF/water (15 mL, 1:1 v/v) was added dropwise benzyl chloroformate 1.6 mL, 11 mmole). After 3 h at rt, THF was removed under vacuum and the remaining aqueous layer was extracted with ethyl acetate. Purification by column chromatograpy over silica gel provided benzyl N-(3,5-dihydroxyphenyl)carbamate. 1H NMR (CD3OD): δ 7.42–7.25 (m, 5H), 6.46 (d, 2H, J=2.4 Hz), 5.97–5.94 (m, 1H), 5.14 (s, 2H).

reactant | 5-aminobenzene-1,3-diol | 3.7 mmole, 0.60 g | NC=1C=C(C=C(C1)O)O | C6H7NO2
reactant | sodium hydrogencarbonate | 16 mmole, 1.4 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 11 mmole, 1.6 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF water | 15 mL | C1CCOC1.O
product | benzyl N-(3,5-dihydroxyphenyl)carbamate | OC=1C=C(C=C(C1)O)NC(OCC1=CC=CC=C1)=O | C14H13NO4
